US05703098
To a solution of 3-(3'-cyclopentyloxy-4'-methoxyphenyl)-3-phthalimido-1-propanol (786 mg, 1.99 mmol) and methyl iodide (0.25 mL, 4.0 mmol) in THF (1 0 mL) at room temperature, was added NaH (160 mg, 60%, 4.0 mmol). The mixture was stirred at room temperature for 1 h, and then was refluxed for 35 minutes. The mixture was allowed to cool to room temperature. To the resulting mixture was added a few drops of NH4Cl, then HCl (1N, 25 mL). The organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (25 mL), and dried over Na2SO4. Removal of solvent and chromatography (silica gel 100 grams, 1:5 EtOAc:hexane) gave 3-(3'-cyclopentyloxy-4'-methoxyphenyl)-1-methoxy-3-phthalimidopropane as an oil, (510 mg, 63% yield). The oil solidified upon standing at room temperature to give a white solid: mp, 77.5°-80.0° C.; 1H NMR (CDCl3)δ1.58-1.96 (m, 8H, C5H8), 2.45-2.55 (m, 1H, CHH), 2.70-2.85 (m, 1H, CHH), 3.26 (s, 3H, CH3), 3.39 (t, J=6 Hz, 2H, CH2), 3.81 (s, 3H, CH3), 4.78-4.80 (m, 1H, OCH), 5.46 (dd, J=7, 9.3 Hz, 1H, NCH), 6.79 (d, J=8.3 Hz, 1H, Ar), 7.06-7.10 (m, 1H, Ar), 7.17-7.26 (m, 1H, Ar), 7.67-7.69 (m, 2H, Ar), 7.78-7.82 (m, 2H, Ar); 13C NMR (CDCl3)δ24.08, 31.30, 32.76, 51.94, 56.00, 58.71, 69.71, 80.37, 111.63, 115.09, 120.53, 123.12, 131.92, 131.96, 133.81, 147.53, 149.55, 169.37; Anal Calcd for C24H27NO5 : C, 70.40; H, 6.65; N, 3.42. Found: C, 70.32; H, 6.61; N, 3.31.

reactant | 3-(3'-cyclopentyloxy-4'-methoxyphenyl)-3-phthalimido-1-propanol | 1.99 mmol, 786 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C(CCO)N1C(C=2C(C1=O)=CC=CC2)=O | C23H25NO5
reactant | methyl iodide | 4.0 mmol, 0.25 mL | CI | CH3I
reactant | NaH | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | THF | 0 mL | C1CCOC1 | C4H8O
catalyst | NH4Cl | a few drops | [NH4+].[Cl-]
product | 3-(3'-cyclopentyloxy-4'-methoxyphenyl)-1-methoxy-3-phthalimidopropane | 63% yield | C1(CCCC1)OC=1C=C(C=CC1OC)C(CCOC)N1C(C=2C(C1=O)=CC=CC2)=O | C24H27NO5
